US07655643B2
tert-Butyl {(4S)-5-azido-4-[(tert-butoxycarbonyl)amino]pentyl}-carbamate
36 mg (0.55 mmol) of sodium azide are added to a solution of 218 mg (0.55 mmol) of (2S)-2,5-bis[(tert-butoxycarbonyl)amino]pentyl methanesulfonate (Example Z7) in 15 ml of dimethylformamide and the mixture is stirred at 70° C. for 12 h. Most of the solvent is distilled off in vacuo, and the residue is diluted with ethyl acetate. The solution is washed several times with a saturated sodium bicarbonate solution, dried over magnesium sulfate and evaporated to dryness in vacuo. The product is reacted without further purification.

reactant | sodium azide | 0.55 mmol, 36 mg | [N-]=[N+]=[N-].[Na+]
reactant | (2S)-2,5-bis[(tert-butoxycarbonyl)amino]pentyl methanesulfonate | 0.55 mmol, 218 mg | CS(=O)(=O)OC[C@H](CCCNC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C16H32N2O7S
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | tert-Butyl {(4S)-5-azido-4-[(tert-butoxycarbonyl)amino]pentyl}-carbamate | N(=[N+]=[N-])C[C@H](CCCNC(OC(C)(C)C)=O)NC(=O)OC(C)(C)C | C15H29N5O4
